US07030135B2
2,4-Dichloro-N-(5,5-dimethyl-7-oxo-4,5,6,7-tetrahydro-1,3-benzothiazol-2-yl)-6- methylbenzenesulfonamide.
The title compound was prepared from 2-amino-5,5-dimethyl-5,6-dihydro-1,3-benzothiazol-7(4H)-one hydrobromide and 2,4-dichloro-6-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white-yellow solid (26 mg) with purity >90%: MS (pos) m/z 419.1, 421.1; HRMS m/z 417.9979 (calc. of monoisotopic mass for C16H16Cl2N2O3S2 gives 417.9979).

reactant | 2-amino-5,5-dimethyl-5,6-dihydro-1,3-benzothiazol-7(4H)-one hydrobromide | Br.NC=1SC2=C(N1)CC(CC2=O)(C)C
reactant | 2,4-dichloro-6-methylbenzenesulfonyl chloride | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)Cl | C7H5Cl3O2S
product | 2,4-Dichloro-N-(5,5-dimethyl-7-oxo-4,5,6,7-tetrahydro-1,3-benzothiazol-2-yl)-6- methylbenzenesulfonamide | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)NC=1SC2=C(N1)CC(CC2=O)(C)C | C16H16Cl2N2O3S2
